US05234566
p-Hydroxyacetophenone was converted to 1-(p-acetoxyphenl) ethanol and then dehydrated using liquid phase dehydration in the presence of potassium acid sulfate to produce p-acetoxystyrene, according to the method of Corson et al. (J. Org. Chem., 1958, 23, 544). p-Acetoxystyrene (1.6 g) was added to a stirred solution of potassium hydroxide (1.4 g) in water (14 ml) at 5 degrees Centigrade. Stirring was continued at 0.5 degrees Centigrade for 2 h. The mixture was then washed with ether, and the aqueous phase neutralized with saturated sodium hydrogen carbonate solution. The product was extracted into dichloromethane, the solution was dried over anhydrous calcium chloride and the solvent removed, to yield a cloudy oil (0.7 g) which solidified on standing to a waxy solid.

reactant | p-Hydroxyacetophenone | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | potassium acid sulfate | OS(=O)(=O)[O-].[K+]
reactant | ethanol | C(C)O | C2H6O
product | p-acetoxystyrene | C(C)(=O)OC1=CC=C(C=C)C=C1 | C10H10O2
